US07091201B2
(In analogy to a procedure given in J. Am. Chem. Soc. 122 (2000), 1360–1370.) To a suspension of Pd(OAc)2 (758 mg), 2-(di-tert.-butlylphosphino)-biphenyl (2.02 g) and K3PO4 (65.95 g) in THF (350 ml) dimethylmalonate (21.42 g) and 1-bromo-2,4-dimethyl-benzene (25 g) was added under argon. The mixture was refluxed for 96 h, cooled to rt and diluted with EA (300 ml) and filtered. The filtrate was evaporated and the resulting brown oil was purified on silica gel eluting with heptane:EA 4:1 to 1:1 followed by distillation (bp 95–100° C. at 0.064 mbar) to give 2-(2,4-dimethyl-phenyl)-malonic acid dimethyl ester (5.66 g) as a colourless oil. 1H-NMR(300 MHz, CDCl3): 2.30(s, 6H), 3.75(s, 6H), 4.87(s, 1H), 6.98–7.05(m, 2H), 7.25–7.28(m, 1H).

reactant | K3PO4 | 65.95 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 1-bromo-2,4-dimethyl-benzene | 25 g | BrC1=C(C=C(C=C1)C)C | C8H9Br
reactant | EA | 300 ml | CC(OCC)=O | C4H8O2
solvent | THF | 350 ml, 21.42 g | C1CCOC1 | C4H8O
catalyst | Pd(OAc)2 | 758 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-(2,4-dimethyl-phenyl)-malonic acid dimethyl ester | 5.66 g | COC(C(C(=O)OC)C1=C(C=C(C=C1)C)C)=O | C13H16O4
